US08629160B2
Preparation of 2-(benzo[b]thiophen-3-yl)-2-(3-methoxyphenylamino)acetic acid (I46)
A mixture of 3-methoxyaniline (400 mg, 3.25 mmol), benzo[b]thiophen-3-ylboronic acid (578 mg, 3.25 mmol), and 2-oxoacetic acid hydrate (299 mg, 3.25 mmol) in acetonitrile (30 ml) was stirred at room temperature overnight. The solvent was removed under vacuum and the crude was used us such in the next step.

reactant | 3-methoxyaniline | 3.25 mmol, 400 mg | COC=1C=C(N)C=CC1 | C7H9NO
reactant | benzo[b]thiophen-3-ylboronic acid | 3.25 mmol, 578 mg | S1C2=C(C(=C1)B(O)O)C=CC=C2 | C8H7BO2S
reactant | 2-oxoacetic acid hydrate | 3.25 mmol, 299 mg | O.O=CC(=O)O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-(benzo[b]thiophen-3-yl)-2-(3-methoxyphenylamino)acetic acid | S1C2=C(C(=C1)C(C(=O)O)NC1=CC(=CC=C1)OC)C=CC=C2 | C17H15NO3S
